US06573283B2
8-[4-(6-Fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2-trifluoromethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalene
A mixture of 0.50 g (1.2 mmole) of [(8R)-2-trifluoromethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-8-yl]methyl 4-methylbenzenesulfonate and 0.90 g (4.2 mmole) of 6-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole in 8.0 mL of DMSO was heated at 85° C. under nitrogen for 6 hours. The reaction was allowed to come to room temperature, diluted to 400 mL with ethyl acetate, washed with 400 mL portions of saturated aqueous sodium bicarbonate and water, dried over sodium sulfate, filtered and evaporated in vacuum. The residue was column chromatographed on silica gel with 1% methanol in chloroform as eluant and recrystallized from ethanol with the addition of 0.10 g of fumaric acid to give 0.16 g of the (S)-enantiomer of the title compound as a yellow solid hemifumarate, hydrate, m.p. 215-220° C.

reactant | [(8R)-2-trifluoromethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-8-yl]methyl 4-methylbenzenesulfonate | 1.2 mmole, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=CC=C3C(=C2O1)N=C(N3)C(F)(F)F | C18H15F3N2O5S
reactant | 6-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.2 mmole, 0.90 g | FC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13FN2
solvent | DMSO | 8.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-[4-(6-Fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2-trifluoromethyl-7,8-dihydro-3H-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalene | FC1=CC=C2C(=CNC2=C1)C=1CCN(CC1)CC1COC2=CC=C3C(=C2O1)N=C(N3)C(F)(F)F | C24H20F4N4O2
